US09145415B2
To a solution of N2-(3-fluorophenyl)-5-(((3-nitrophenyl)thio)methyl)-N4-propylpyrimidine-2,4-diamine (E19, 160 mg) in ethanol (4 mL) and ethyl acetate (8 mL), tin(II) chloride (739 mg) was added at room temperature, and the mixture was stirred at 70° C. for 1 hour. The reaction mixture was cooled to room temperature, and then water and ethyl acetate were added to the mixture. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 5-(((3-aminophenyl)thio)methyl)-N2-(3-fluorophenyl)-N4-propylpyrimidine-2,4-diamine (E20).

reactant | N2-(3-fluorophenyl)-5-(((3-nitrophenyl)thio)methyl)-N4-propylpyrimidine-2,4-diamine | 160 mg | FC=1C=C(C=CC1)NC1=NC=C(C(=N1)NCCC)CSC1=CC(=CC=C1)[N+](=O)[O-] | C20H20FN5O2S
reactant | tin(II) chloride | 739 mg | [Sn](Cl)Cl
reactant | water | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | 5-(((3-aminophenyl)thio)methyl)-N2-(3-fluorophenyl)-N4-propylpyrimidine-2,4-diamine | NC=1C=C(C=CC1)SCC=1C(=NC(=NC1)NC1=CC(=CC=C1)F)NCCC | C20H22FN5S
